US03970622
The procedure of Example 1 was used to react 2.7 grams (0.117 mole) of sodium and 5.2 grams (0.126 mole) of acetonitrile with 10.0 grams (0.083 mole) of p-fluorobenzonitrile. After the addition of water, the reaction mixture was extracted three times with chloroform. The combined chloroform extracts were concentrated to obtain a dark-colored crystalline mass which was recrystallized four times from a mixture of chloroform and hexane to obtain yellow plates of β-amino-β-(p-fluorophenyl)acrylonitrile, mleting point 110°-112°C. Analysis: -- Calculated for C9H7N2F (percent): C, 66.66; H, 4.35; N, 17.27; F, 11.72. Found (percent): C, 66.48; H, 4.34; N, 17.21; F, 11.19.

reactant | sodium | 0.117 mole, 2.7 grams | [Na] | Na
reactant | acetonitrile | 0.126 mole, 5.2 grams | C(C)#N | C2H3N
reactant | p-fluorobenzonitrile | 0.083 mole, 10.0 grams | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | water | O | H2O
product | β-amino-β-(p-fluorophenyl)acrylonitrile | NC(=CC#N)C1=CC=C(C=C1)F | C9H7FN2
